US06387938B1
Synthesis of ethyl 3-(2-(2-phenylethyl)benzimidazol-4-yl)3-oxopropanoate (Compound of Inventive Example 3)
Potassium ethylmalonate (72.4 g) was suspended in anhydrous acetonitrile (1 L). Triethylamine (59.3 mL) and magnesium chloride (48.6 g) were added to the suspension and vigorously stirred at room temperature for 3 hours under an atmosphere of argon. Next, a catalytically effective amount of N,N-dimethylaminopyridine and 1,1′-carbonyldiimidazole (30.3 g) were added to anhydrous tetrahydrofuran (450 mL) suspension of 2-(2-phenylethyl)benzimidazole-4-carboxylic acid (45.3 g) obtained in Reference Example 3, and the mixture was stirred for 2 hours under an atmosphere of argon. The reaction solution was added to the previously prepared suspension of ethyl malonate magnesium salt while cooling in an ice bath, and the mixture was stirred at room temperature for 1 hour. This was adjusted to pH 1 with concentrated hydrochloric acid while cooling in an ice bath. At the same temperature, this was alkalified with saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate. The organic layer was washed with water and brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was crystallized from hexane and collected by filtration to obtain the title compound as crystal (43 g). Respective spectra and melting point of the thus obtained crystal coincided with the data obtained in Inventive Example 3.

reactant | Potassium ethylmalonate | 72.4 g | C(C)C(C(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | magnesium chloride | 48.6 g | [Cl-].[Mg+2].[Cl-]
reactant | 1,1′-carbonyldiimidazole | 30.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(2-phenylethyl)benzimidazole-4-carboxylic acid | 45.3 g | C1(=CC=CC=C1)CCC=1NC2=C(N1)C=CC=C2C(=O)O | C16H14N2O2
reactant | ethyl malonate magnesium salt | [Mg+2].C(CC(=O)[O-])(=O)OCC.C(C)OC(CC(=O)[O-])=O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
solvent | Triethylamine | 59.3 mL | C(C)N(CC)CC | C6H15N
product | ethyl 3-(2-(2-phenylethyl)benzimidazol-4-yl)3-oxopropanoate | 43 g | C1(=CC=CC=C1)CCC=1NC2=C(N1)C=CC=C2C(CC(=O)OCC)=O | C20H20N2O3
